US09340555B2
To a stirred, cooled (0° C.) solution of 7-{3-[(3-methyl-2-furoyl)amino]phenoxy}thieno[3,2-b]pyridine-2-carboxylic acid (120 mg, 0.30 mmol) in anhydrous DMF (10 ml) were added PyBOP (171 mg, 0.33 mmol) and N,N-diisopropylethylamine (85 mg, 0.66 mmol). The mixture was stirred at 0° C. for 5 minutes, followed by addition of 2M ethylamine solution in THF (0.18 ml, 0.36 mmol). Stirring was continued at 0° C. for another 40 minutes. The mixture was poured into 100 ml of water with vigorous stirring. 2M HCl was added dropwise until pH=5. The precipitates were filtered, washed with water and dried to give N-ethyl-7-{3-[(3-methyl-2-furoyl)amino]phenoxy}thieno[3,2-b]pyridine-2-carboxamide as light yellow solid. Yield: 115 mg, 90%.

reactant | 7-{3-[(3-methyl-2-furoyl)amino]phenoxy}thieno[3,2-b]pyridine-2-carboxylic acid | 0.30 mmol, 120 mg | CC1=C(OC=C1)C(=O)NC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)O)C=CC1 | C20H14N2O5S
reactant | PyBOP | 0.33 mmol, 171 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.66 mmol, 85 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethylamine | 2M | C(C)N | C2H7N
reactant | THF | 0.36 mmol, 0.18 ml | C1CCOC1 | C4H8O
reactant | HCl | 2M | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | N-ethyl-7-{3-[(3-methyl-2-furoyl)amino]phenoxy}thieno[3,2-b]pyridine-2-carboxamide | C(C)NC(=O)C1=CC2=NC=CC(=C2S1)OC1=CC(=CC=C1)NC(=O)C=1OC=CC1C | C22H19N3O4S
